US06939877B2
4-(7-Methoxy-benzofuran-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
To a solution of 2-(7-methoxybenzo[b]furan-3-yl)-4,4,5,5-tetramethyl-[1,2]oxaborolane (1.10 g, 4.0 mmol) in dimethoxyethane (1 mL) was added CsCO3 (0.650 g, 2.0 mmol), H2O (1 mL), 4-trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (0.480 g, 1.45 mmol), LiCl (0.10 g, 2.4 mmol) and tetrakis(triphenylphosphine)palladium (0) (0.06 g, 0.05 mmol). The reaction was heated in the microwave for 5 min at 150° C. The solvent was removed in vacuum, the residue taken up in 300 mL of methylene chloride, washed with 200 mL portions of saturated aqueous sodium carbonate and 1 N NH4OH (aq), dried over anhydrous sodium sulfate, filtered and concentrated in vacuum. The residue was filtered through 150 mL of silica gel with 15% ethyl acetate/hexane as eluant to give 0.50 g of the title compound. 1H NMR (300 MHz, CDCl3); δ 1.5 (s, 9H), 2.51 (t, 2H), 3.66 (t, 2H), 4.04 (s, 3H), 4.12 (dd, 2H), 6.24 (br s, 1H), 6.91 (d, 1H), 7.17 (t, 1H), 7.39 (d, 1H), 7.59 (s, 1H), MS (ES) m/z (relative intensity): 330 (M+H, 100).

reactant | 2-(7-methoxybenzo[b]furan-3-yl)-4,4,5,5-tetramethyl-[1,2]oxaborolane | 4.0 mmol, 1.10 g | COC1=CC=CC2=C1OC=C2B2OC(C(C2)(C)C)(C)C | C16H21BO3
reactant | H2O | 1 mL | O | H2O
reactant | 4-trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.45 mmol, 0.480 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | LiCl | 2.4 mmol, 0.10 g | [Li+].[Cl-]
solvent | dimethoxyethane | 1 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(7-Methoxy-benzofuran-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.50 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=COC2=C1C=CC=C2OC | C19H23NO4
